US09145415B2
To a solution of tert-butyl (2-((4-cyanophenyl)amino)-5-(5-hydroxy-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate (S11, 17 mg), phthalimide (12 mg) and triphenylphosphine (21 mg) in tetrahydrofuran (1 mL), a 2.2 mol/mL solution of diethyl azodicarboxylate in toluene (36 μL) was added under ice cooling, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture, water and ethyl acetate were added. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel chromatography (eluent, 100 to 40% hexane in ethyl acetate) to obtain tert-butyl (2-((4-cyanophenyl)amino)-5-(5-(1,3-dioxoisoindolin-2-yl)-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate (S12, 20 mg).

reactant | tert-butyl (2-((4-cyanophenyl)amino)-5-(5-hydroxy-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate | 17 mg | C(#N)C1=CC=C(C=C1)NC1=NC=C(C(=C1)N(C(OC(C)(C)C)=O)CCC)C#CCCCO | C25H30N4O3
reactant | phthalimide | 12 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 21 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | toluene | 36 μL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | tert-butyl (2-((4-cyanophenyl)amino)-5-(5-(1,3-dioxoisoindolin-2-yl)-1-pentyn-1-yl)pyridin-4-yl)(propyl)carbamate | 20 mg | C(#N)C1=CC=C(C=C1)NC1=NC=C(C(=C1)N(C(OC(C)(C)C)=O)CCC)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C33H33N5O4
